US04544670
Step I. 4-chlorophenylacetyl chloride
To a stirred suspension of 4-chlorophenylacetic acid (85.3 g) in 500 ml of toluene, 45 ml of thionyl chloride (74.4 g) are added. The resulting mixture is stirred at RT, heated slowly to boiling, and stirred overnight under reflux. After cooling the reaction mixture to RT, the solvent is evaporated in vacuo. Distillation of the residue affords 38.15 g of a red liquid.

reactant | 4-chlorophenylacetic acid | 85.3 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | thionyl chloride | 45 ml, 74.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlorophenylacetyl chloride | 38.15 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
